US07851626B2
In a manner analogous to the method described in example 29, methyl 4-chlorosulfonyl-2-ethoxy-benzoate was reacted with tert-butylamine to give 4-tert-butylsulfamoyl-2-ethoxy-benzoic acid methyl ester.

reactant | methyl 4-chlorosulfonyl-2-ethoxy-benzoate | ClS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1)OCC | C10H11ClO5S
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 4-tert-butylsulfamoyl-2-ethoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)S(NC(C)(C)C)(=O)=O)OCC)=O | C14H21NO5S
